US08486962B2
b) Preparation of N-(2,2-dimethoxyethyl)-2-dimethylamino-5-nitro benzamide
A mixture of 2-dimethylamino-5-nitro benzoic acid (300 mg, 1.42 mmol) and thionyl chloride (0.41 ml 5.7 mmol) in dry chloroform (5 ml) was heated to reflux for 3 hr. The excess thionyl chloride was evaporated to give a residue, which was then dissolved in acetone (2 ml). This was then added drop-wise to a mixture of 2,2-dimethoxy-ethylamine (0.15 ml, 1.44 mmol) and sodium bicarbonate (120 mg, 1.44 mmol) in 2:1 acetone-water (12 ml) at 0° C. and stirred overnight at room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and then brine, dried and concentrated to yield of N-(2,2-dimethoxyethyl)-2-dimethylamino-5-nitro benzamide (313 mg, 79%) as solid.

reactant | 2-dimethylamino-5-nitro benzoic acid | 1.42 mmol, 300 mg | CN(C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-])C | C9H10N2O4
reactant | thionyl chloride | 5.7 mmol, 0.41 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,2-dimethoxy-ethylamine | 1.44 mmol, 0.15 ml | COC(CN)OC | C4H11NO2
reactant | sodium bicarbonate | 1.44 mmol, 120 mg | C([O-])(O)=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | acetone water | 12 ml | CC(=O)C.O
product | N-(2,2-dimethoxyethyl)-2-dimethylamino-5-nitro benzamide | COC(CNC(C1=C(C=CC(=C1)[N+](=O)[O-])N(C)C)=O)OC | C13H19N3O5
